US04634766
10-Carbomethoxy-1,4-diazaphenothiazine
By following the conditions of Example 4, but substituting 1,4-diazaphenothiazine for 7-methoxy 1,4-diazaphenothiazine and methylchloroformate for methyl iodide, the title compound, m.p. 137°-138° was obtained in a 23% yield.

reactant | 7-methoxy 1,4-diazaphenothiazine | COC=1C=C2SC=3N=CC=NC3NC2=CC1 | C11H9N3OS
reactant | methylchloroformate | COC(=O)Cl | C2H3ClO2
reactant | methyl iodide | CI | CH3I
product | 10-Carbomethoxy-1,4-diazaphenothiazine | 23% yield | C(=O)(OC)N1C2=CC=CC=C2SC=2N=CC=NC12 | C12H9N3O2S
